US06251911B1
Analogously to Example 26, 100 mg (0.248 mmol) of 4-(3-chlorophenylamino)-3-(piperazin-1-yl)-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride and 103 mg (0.74 mmol) of potassium carbonate in 10 ml of water are reacted with 38 mg (0.37 mmol) of acetic anhydride in 10 ml of dioxane to form 3-(4-acetyl-piperazin-1-yl)-4-(3-chlorophenylamino)-1H-pyrazolo(3,4-d]pyrimidine; HPLC: tRet(grad20-100/20)=10.8; FAB-MS: (M+H)+=372.

reactant | 4-(3-chlorophenylamino)-3-(piperazin-1-yl)-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride | 0.248 mmol, 100 mg | Cl.Cl.ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2N2CCNCC2
reactant | potassium carbonate | 0.74 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 0.37 mmol, 38 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 10 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(4-acetyl-piperazin-1-yl)-4-(3-chlorophenylamino)-1H-pyrazolo(3,4-d]pyrimidine | C(C)(=O)N1CCN(CC1)C1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C17H18ClN7O
